US04735940
A few drops of triethylamine and three 0.24 ml portions of ethyl isocyanate were added to a suspension of 1.02 g of 4,5-dihydro-10-(hydroxymethyl)-8-phenyl-7H-thieno[2,3-a]quinolizin-7-one in 11.5 ml of toluene, whereby the mixture was stirred at 85° for about 2 hours between each of the addtions. After the reaction was finished, the mixture is evaporated in vacuo. By recrystallization of the residue from ethanol, there was obtained pure (4,5-dihydro-7-oxo-8-phenyl-7H-thieno[2,3-a]quinolizin-10-yl)methyl-ethylcarbamate of m.p. 136°-137°.

reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
reactant | 4,5-dihydro-10-(hydroxymethyl)-8-phenyl-7H-thieno[2,3-a]quinolizin-7-one | 1.02 g | OCC=1C=C(C(N2CCC3=C(C12)SC=C3)=O)C3=CC=CC=C3 | C18H15NO2S
catalyst | triethylamine | A few drops | C(C)N(CC)CC | C6H15N
solvent | toluene | 11.5 ml | C1(=CC=CC=C1)C | C7H8
product | (4,5-dihydro-7-oxo-8-phenyl-7H-thieno[2,3-a]quinolizin-10-yl)methyl-ethylcarbamate | O=C1N2CCC3=C(C2=C(C=C1C1=CC=CC=C1)COC(NCC)=O)SC=C3 | C21H20N2O3S
